US04299936
A. Preparation of Titanium Dichloride-Aluminum Chloride-Durene Complex
20 g of aluminum power (BDH fine powder) and 27 g of aluminum chloride were introduced into a two liter flask. The mixture of solids was stirred and heated to a temperature of 130° C., which temperature was maintained for two hours. The mixture was then cooled, and a solution of 15.5 g of durene in one liter of toluene was added. The flask contents were stirred and heated to reflux temperature. 19.9 g of titanium tetrachloride in 100 ml of toluene were added dropwise over a period of 30 minutes. Heating was continued, at reflux temperature, for a further hour and the mixture was then allowed to cool. The mixture was then filtered and the filtrate was allowed to run directly into 2.5 liters of n-heptane. A dark-colored precipitate separated out and was filtered and then washed four times with 250 ml of n-heptane for each wash. The precipitate was then dried under vacuum (0.2 mm pressure) at ambient temperature (about 20° C.).

reactant | aluminum | 20 g | [Al] | Al
reactant | aluminum chloride | 27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | durene | 15.5 g | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
reactant | titanium tetrachloride | 19.9 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | one liter | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Titanium Dichloride Aluminum Chloride Durene | [Cl-].[Cl-].[Ti+2].[Cl-].[Al+3].[Cl-].[Cl-].C=1(C)C(C)=CC(C)=C(C)C1 | InChI=1S/C10H14.Al.5ClH.Ti/c1-7-5-9(3)10(4)6-8(7)2;;;;;;;/h5-6H,1-4H3;;5*1H;/q;+3;;;;;;+2/p-5
